US04404138
9-Amino-3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A solution of 3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (10.5 g, 0.026 moles) in N,N-dimethylformamide (300 ml) is hydrogenated at 50 psi at 24° C. in the presence of Raney Nickel until the required amount of hydrogen has been taken up. The catalyst is filtered off and rinsed with hot N,N-dimethylformamide until free of organic material. The filtrate is slightly concentrated and cooled to give the product. Recrystallization from ethanol gave the product (5.1 g), mp 142°-143° C.

reactant | 3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.026 moles, 10.5 g | C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)[N+](=O)[O-])C | C23H29N3O4
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | Raney Nickel | [Ni] | Ni
product | 9-Amino-3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 5.1 g | NC=1C(=CC2=C(C1)C1=C(CN(CC1)CCN1CC3CCC(C1)CC3)C(O2)=O)C | C23H31N3O2
